US08293909B2
To a solution containing 3-(3-(tert-butoxycarbonyl(methyl)carbamoyl)-4-fluoro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-5-yl)-4-methylbenzoic acid (0.070 g, 0.13 mmol) and dichloromethane (8.0 mL) was added TFA (0.84 mL, 10.9 mmol) at room temperature. The solution was maintained for 15 min and concentrated to dryness to afford 3-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl)-4-methylbenzoic acid as an off white solid which was used without further purification. LCMS retention time: 1.825 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Sunfire C18, 5 micron, C18, 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% CH3CN/90% H2O/10 mM TFA and solvent B was 10% H2O/90% CH3CN/10 mM TFA. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 444 (MNa−).

reactant | 3-(3-(tert-butoxycarbonyl(methyl)carbamoyl)-4-fluoro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridin-5-yl)-4-methylbenzoic acid | 0.13 mmol, 0.070 g | C(C)(C)(C)OC(=O)N(C(=O)C=1C(=NN2C1C(=C(C=C2)C=2C=C(C(=O)O)C=CC2C)F)C2=CC=C(C=C2)F)C | C28H25F2N3O5
reactant | TFA | 10.9 mmol, 0.84 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 8.0 mL | ClCCl | CH2Cl2
product | 3-(4-fluoro-2-(4-fluorophenyl)-3-(methylcarbamoyl)pyrazolo[1,5-a]pyridin-5-yl)-4-methylbenzoic acid | FC=1C=2N(C=CC1C=1C=C(C(=O)O)C=CC1C)N=C(C2C(NC)=O)C2=CC=C(C=C2)F | C23H17F2N3O3
